US07227035B2
Synthesis of 4-tert-Butyl-N-[4-chloro-2-(4-fluoro-benzoyl)-phenyl]-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously desribed using 125 mg of (2-Amino-5-chloro-phenyl)-(4-fluoro-phenyl)-methanone and 116 mg of 4-tert-butyl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 1.21 (s, 9H), 7.09 (t, 2H, J=8.8 Hz), 7.29 (m, 3H), 7.43–7.50 (m, 3H), 7.59 (m, 2H), 7.77 (d, 1H, J=8.8 Hz), 9.72 (s, 1H). MS: m/z 446.0 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-(4-fluoro-phenyl)-methanone | 125 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=C(C=C1)F | C13H9ClFNO
reactant | 4-tert-butyl-benzenesulfonyl chloride | 116 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-Butyl-N-[4-chloro-2-(4-fluoro-benzoyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(C1=CC=C(C=C1)F)=O | C23H21ClFNO3S
